US04423213
7-Amino-3-hydroxymethyl-3-cephem-4-carboxylic acid (9.21 g) was suspended in water (200 ml) and neutralized to pH 7.5 with dicyclohexylamine (7 g). To the resultant solution was added dropwise salicylaldehyde (5.42 g). After stirring at ambient temperature for 2 hours, the precipitates were collected by filtration and dried to give 7-salicylideneamino-3-hydroxymethyl-3-cephem-4-carboxylic acid dicyclohexylamine salt (17.4 g).

reactant | 7-Amino-3-hydroxymethyl-3-cephem-4-carboxylic acid | 9.21 g | NC1[C@@H]2N(C(=C(CS2)CO)C(=O)O)C1=O | C8H10N2O4S
reactant | dicyclohexylamine | 7 g | C1(CCCCC1)NC1CCCCC1 | C12H23N
reactant | salicylaldehyde | 5.42 g | C(C=1C(O)=CC=CC1)=O | C7H6O2
solvent | water | 200 ml | O | H2O
product | 7-salicylideneamino-3-hydroxymethyl-3-cephem-4-carboxylic acid dicyclohexylamine salt | 17.4 g | C1(CCCCC1)NC1CCCCC1.C(C=1C(O)=CC=CC1)=NC1[C@@H]2N(C(=C(CS2)CO)C(=O)O)C1=O | InChI=1S/C15H14N2O5S.C12H23N/c18-6-9-7-23-14-11(13(20)17(14)12(9)15(21)22)16-5-8-3-1-2-4-10(8)19;1-3-7-11(8-4-1)13-12-9-5-2-6-10-12/h1-5,11,14,18-19H,6-7H2,(H,21,22);11-13H,1-10H2/t11?,14-;/m1./s1
